US07420001B2
To a solution of benzofuran-2-carboxylic acid [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide (195 mg, 0.54 mmol, 1 eq) in 3.5 mL of DMF under nitrogen atmosphere was added NaH (60% in mineral oil, 23 mg, 0.58 mmol, 1.1 eq). After 30 min of reaction, iodomethane (0.05 mL, 0.8 mmol, 1.5 eq) was added and the reaction was allowed to go for 12 h. After work up and column chromatography, benzofuran-2-carboxylic acid methyl-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide (83 mg) was obtained in 41% yield. 1H NMR (400 MHz, Benzene-d6) δ ppm 1.3 (s, 12 H) 3.4 (s, 3 H) 6.9 (d, J=0.8 Hz, 1 H) 7.0 (m, 4 H) 7.2 (m, 2 H) 8.1 (d, J=8.3 Hz, 2 H).

reactant | benzofuran-2-carboxylic acid [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide | 0.54 mmol, 195 mg, 1 eq | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1)C=CC=C2)C | C21H22BNO4
reactant | NaH | 0.58 mmol, 23 mg, 1.1 eq | [H-].[Na+]
reactant | iodomethane | 0.8 mmol, 0.05 mL, 1.5 eq | IC | CH3I
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
product | benzofuran-2-carboxylic acid methyl-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide | 83 mg, 41% yield | CN(C(=O)C=1OC2=C(C1)C=CC=C2)C2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C | C22H24BNO4
